US04735744
(Synthesis of diisobutyl 2-p-toluenesulfonyl-1,4-benzoquinone-3,6-dicarboxylate)
One part of diisobutyl 2-p-toluenesulfonyl-3,6dihydroxyterephthalate, 3 parts of electrolytic manganese dioxide and 5 parts of benzene were mixed. After allowing the mixture to stand for 24 hours, it was agitated at its boiling point for 3 hours. The reaction mixture was hot-filtered, and a portion of the benzene was distilled off to concentrate the filtrate to about 1/3 of its initial volume. Upon addition of ligroin, a yellowish precipitate was caused to deposit. The mixture was allowed to cool overnight at room temperature and the solid matter was collected by filtration. Then, it was washed with ligroin and dried at room temperature in air, thereby obtaining light-yellowish crystals having a melting point of 112°-114° C. with a yield of about 70%.

reactant | diisobutyl 2-p-toluenesulfonyl-3,6dihydroxyterephthalate | C1(=CC=C(C=C1)S(=O)(=O)C1=C(C(=O)OCC(C)C)C(=CC(=C1O)C(=O)OCC(C)C)O)C | C23H28O8S
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | diisobutyl 2-p-toluenesulfonyl-1,4-benzoquinone-3,6-dicarboxylate | yield of about 70% | C1(=CC=C(C=C1)S(=O)(=O)C=1C(C(=CC(C1C(=O)OCC(C)C)=O)C(=O)OCC(C)C)=O)C | C23H26O8S
